US07423030B2
4.2. N-[8-(naphthalen-2-ylmethyl)-8-azabicyclo[3.2.1]oct-3-yl]amine
4 g (12.9 mmol) of N-[8-(naphthalen-2-ylmethyl)-8-azabicyclo[3.2.1]oct-3-yl]acetamide are poured into 13 mL of 5N hydrochloric acid. The mixture is refluxed for 4 hours and then cooled in an ice bath, basified with 35% sodium hydroxide and extracted three times with ethyl acetate. The combined extracts are washed with water and with brine, dried over anhydrous sodium sulfate and then evaporated under reduced pressure. 3.2 g of oily product are obtained (94% yield).

reactant | N-[8-(naphthalen-2-ylmethyl)-8-azabicyclo[3.2.1]oct-3-yl]acetamide | 12.9 mmol, 4 g | C1=C(C=CC2=CC=CC=C12)CN1C2CC(CC1CC2)NC(C)=O | C20H24N2O
reactant | hydrochloric acid | 5N, 13 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | N-[8-(naphthalen-2-ylmethyl)-8-azabicyclo[3.2.1]oct-3-yl]amine | 3.2 g, 94% yield | C1=C(C=CC2=CC=CC=C12)CN1C2CC(CC1CC2)N | C18H22N2
